US09376449B2
To a mixture of 8-(2-aminoethyl)-5-bromo-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid (523 mg), tetrahydrofuran (2.00 mL), and water (2.00 mL) were added sodium hydrogen carbonate (540 mg) and di-tert-butyl dicarbonate (456 mg), followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, then the residue was acidified with 1 M hydrochloric acid, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 5-bromo-8-{2-[(tert-butoxycarbonyl)amino]ethyl}-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid (622 mg) as a beige solid.

reactant | 8-(2-aminoethyl)-5-bromo-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid | 523 mg | NCCC1=C(NC2=C(C=C3C(=C12)CCO3)Br)C(=O)O | C13H13BrN2O3
reactant | tetrahydrofuran | 2.00 mL | O1CCCC1 | C4H8O
reactant | sodium hydrogen carbonate | 540 mg | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 456 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 2.00 mL | O | H2O
product | 5-bromo-8-{2-[(tert-butoxycarbonyl)amino]ethyl}-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid | 622 mg | BrC=1C=C2C(=C3C(=C(NC13)C(=O)O)CCNC(=O)OC(C)(C)C)CCO2 | C18H21BrN2O5
